US04804400
A mixture of 7.5 g (0.03 mol) of N-(4-chloro-2-fluorophenyl)-2,3-dimethylmaleic acid imide and 400 mg of platinum oxide (PtO2) is hydrogenated with hydrogen in 75 ml of ethyl acetate at room temperature under normal pressure. After about 5 hours, the reduction is complete. The catalyst is then filtered off and the filtrate is concentrated in vacuo. 7.6 g (99% of the theoretical yield) of cis-N-(2-fluoro-4-chlorophenyl)-2,3-dimethylsuccinimide in the form of a yellowish oil which is uniform in a thin-layer chromatogram remain as residue.

reactant | N-(4-chloro-2-fluorophenyl)-2,3-dimethylmaleic acid imide | 0.03 mol, 7.5 g | ClC1=CC(=C(C=C1)N1C(C(=C(C1=O)C)C)=O)F | C12H9ClFNO2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 400 mg | [Pt]=O
product | cis-N-(2-fluoro-4-chlorophenyl)-2,3-dimethylsuccinimide | FC1=C(C=CC(=C1)Cl)N1C([C@H]([C@H](C1=O)C)C)=O | C12H11ClFNO2
